US06313122B1
A. N1-(4-Methoxybenzoyl)-N2-(4-propylbenzoyl)-4-(tert-butyldimethylsilyloxy)-1,2-benzenediamine
To a solution of N1-(4-methoxybenzoyl)-4-(tert-butyldimethylsilyloxy)-1,2-benzenediamine (300 mg, 0.81 mmol) in methylene chloride (20 mL) was added pyridine (0.13 mL, 1.6 mmol) followed by 4-propylbenzoyl chloride (0.15 mL, 0.89 mmol). The reaction mixture was stirred for 4 h, diluted with methylene chloride, washed with saturated aqueous cupric sulfate solution, dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was chromatographed (silica gel, methylene chloride to 20% ethyl acetate/80% methylene chloride) to give 400 mg (95%) of the the title compound as a solid.

reactant | N1-(4-methoxybenzoyl)-4-(tert-butyldimethylsilyloxy)-1,2-benzenediamine | 0.81 mmol, 300 mg | COC1=CC=C(C(=O)NC=2C(=CC(=CC2)O[Si](C)(C)C(C)(C)C)N)C=C1 | C20H28N2O3Si
reactant | pyridine | 1.6 mmol, 0.13 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-propylbenzoyl chloride | 0.89 mmol, 0.15 mL | C(CC)C1=CC=C(C(=O)Cl)C=C1 | C10H11ClO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N1-(4-Methoxybenzoyl)-N2-(4-propylbenzoyl)-4-(tert-butyldimethylsilyloxy)-1,2-benzenediamine | COC1=CC=C(C(=O)NC=2C(=CC(=CC2)O[Si](C)(C)C(C)(C)C)NC(C2=CC=C(C=C2)CCC)=O)C=C1 | C30H38N2O4Si
